US09120792B2
A mixture of 1.91 g of N2-methyl-5-trifluoromethylpyridine-2,3-diamine, 3.24 g of carbodiimidazole and 10 ml of acetonitrile was stirred at 50° C. for 1 hour and at 80° C. for 2 hours. Water was poured into the cooled reaction mixture, and the precipitated crystal was obtained by filtration and dried to obtain 2.0 g of 3-methyl-6-trifluoromethyl-1,3-dihydro-imidazo[4,5-b]pyridin-2-one.

reactant | N2-methyl-5-trifluoromethylpyridine-2,3-diamine | 1.91 g | CNC1=NC=C(C=C1N)C(F)(F)F | C7H8F3N3
reactant | carbodiimidazole | 3.24 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | Water | O | H2O
product | 3-methyl-6-trifluoromethyl-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | 2.0 g | CN1C(NC=2C1=NC=C(C2)C(F)(F)F)=O | C8H6F3N3O
